US09079916B2
Preparation of 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-isopropylpyridin-3-yl)cyclopropanecarboxamide
1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (20.6 mg, 0.100 mmol) and 6-isopropylpyridin-3-amine (13.6 g, 0.100 mmol) were dissolved in N,N-dimethylformamide (DMF, 1 mL) containing triethylamine (0.042 mL, 0.300 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 39.9 mg, 0.105 mmol) was added and the solution was allowed to stir for 3 hours. The mixture was then purified by reverse phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield the pure product. ESI-MS m/z calc. 324.2. Found 325.3 (M+1)+. Retention time 2.14 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.100 mmol, 20.6 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | 6-isopropylpyridin-3-amine | 0.100 mmol, 13.6 g | C(C)(C)C1=CC=C(C=N1)N | C8H12N2
reactant | triethylamine | 0.300 mmol, 0.042 mL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.105 mmol, 39.9 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-isopropylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)C(C)C | C19H20N2O3
